US07884101B2
Step 1.13c: Preparation of 1-(4-chloro-phenyl)-3-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-urea
To a stirred and ice-cooled solution of methyl hydrazine (1.46 g, 31.6 mmol) in pyridine was added a slurry of 1-(4-chloro-phenyl)-3-(4-oxo-4H-chromen-6-yl)-urea (2.5 g, 7.9 mmol) in pyridine over a period of 10 mins. The reaction mixture was stirred further at this temperature for 2 hours and then allowed to warm slowly to ambient temperature. After 6 hrs the reaction mixture turned clear. The reaction was stirred at this temperature for 18 hours. Pyridine was evaporated and the resulting dark colored residue was dissolved in DMSO and purified using a Varian Prep. HPLC system (20 mL/min., λ=240, 0.1% TFA/H2O:0.1% TFA/CH3CN). The two regio-isomers were separated. The fractions containing the product were concentrated and dried in vacuo to produce (1.78 g, 47%) as a colorless powder. LCMS m/z (%)=343 (M+H 35Cl, 100), 345 (M+H 37Cl, 32.5). 1H NMR (400 MHz, DMSO-d6) δ: 9.59 (bs, 1H), 8.72 (bs, 1H), 8.48 (bs, 1H), 7.43 (dd, J=6.8, 2.07 Hz, 2H), 7.41 (d, J=1.83 Hz, 1H), 7.28 (dd, J=7.13, 2.09 Hz, 2H), 7.26 (d, J=2.72 Hz, 1H), 6.89 (d, J=9.36 Hz, 1H), 6.21 (d, J=1.84 Hz, 1H), 3.67 (s, 3H).

reactant | methyl hydrazine | 31.6 mmol, 1.46 g | CNN | CH6N2
reactant | 1-(4-chloro-phenyl)-3-(4-oxo-4H-chromen-6-yl)-urea | 7.9 mmol, 2.5 g | ClC1=CC=C(C=C1)NC(=O)NC=1C=C2C(C=COC2=CC1)=O | C16H11ClN2O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(4-chloro-phenyl)-3-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-urea | ClC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)O)C=1N(N=CC1)C | C17H15ClN4O2
